US07932272B2
2-Benzyloxy-thiophene
To a solution of benzyl alcohol (3.45 mL, 33.3 mmol) in 1,2-dimethoxyethane (80 mL) was added n-butyl lithium (2.6M hexane solution, 13.5 mL, 33.3 mmol) dropwise, which was then stirred for 10 minutes. Copper(I) chloride (5210 mg, 49.45 mmol) was added thereto, followed by stirring for 10 minutes on an ice bath, then, it was stirred for 2.5 hours at room temperature. 2-Iodothiophene (4995 mg, 23.78 mmol) and pyridine 320 mL were further added, and the solution was stirred for 13 hours under reflux. Ethyl acetate was added to the reaction mixture, which was sequentially washed with 1N hydrochloric acid, an aqueous solution of sodium hydrogen sulfate and brine, dried over anhydrous magnesium sulfate, and then, concentrated in vacuo. The resulting residue was purified by silica gel chromatography (hexane-ethyl acetate), and the title compound (420 mg, 2.21 mmol, 9.5%) was obtained.

reactant | benzyl alcohol | 33.3 mmol, 3.45 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | n-butyl lithium | 33.3 mmol, 2.6M, 13.5 mL | C(CCC)[Li]
reactant | 2-Iodothiophene | 23.78 mmol, 4995 mg | IC=1SC=CC1 | C4H3IS
reactant | pyridine | 320 mL | N1=CC=CC=C1 | C5H5N
solvent | 1,2-dimethoxyethane | 80 mL | COCCOC | C4H10O2
catalyst | Copper(I) chloride | 49.45 mmol, 5210 mg | [Cu]Cl
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Benzyloxy-thiophene | 2.21 mmol, 420 mg, 9.5% | C(C1=CC=CC=C1)OC=1SC=CC1 | C11H10OS
